US04797298
B. N-(3,5-Dimethyl-1,2-dithiolan-4-yl)-t-butoxycarbonyl-D-alanine salt
Under anhydrous conditions, to a mixture of 1.7 g (8.9 mmole) of N-t-Boc-D-alanine obtained in Part A, 1.98 g (19 mmole) triethylamine and 40 ml of tetrahydrofuran, cooled to -10° C. is added dropwise 0.96 g (8.9 mmole) ethyl chloroformate and the resulting mixture is stirred at this temperature for 20 minutes. To this is added 1.1 g (7.5 mmole) of mixed cis- and trans-isomers of 4-amino-3,5-dimethyl-1,2-dithiolane and the resulting mixture is stirred at -10° C. for 10 minutes, then allowed to warm to room temperature. The reaction mixture is diluted with water and extracted with ethyl acetate. The organic layer is washed with sodium bicarbonate solution, dilute hydrochloric acid, water, brine, then dried (Na2SO4) and the solvent is evaporated at reduced pressure to obtain the desired product which is used in the next step.

reactant | N-t-Boc-D-alanine | 8.9 mmole, 1.7 g | C[C@H](C(=O)[O-])NC(=O)OC(C)(C)C
reactant | triethylamine | 19 mmole, 1.98 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 8.9 mmole, 0.96 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-amino-3,5-dimethyl-1,2-dithiolane | NC1C(SSC1C)C | C5H11NS2
solvent | water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-(3,5-Dimethyl-1,2-dithiolan-4-yl)-t-butoxycarbonyl-D-alanine | CC1SSC(C1N([C@H](C)C(=O)O)C(=O)OC(C)(C)C)C | C13H23NO4S2
